US07259160B2
Step B: (3R,7R)-4-[(3R)-3-Amino-4-(2,4,5-trifluorophenyl)butanoyl]-3,7-dimethyl-1,4-diazepan-2-one, hydrochloride
A solution of (3R,7R)-4-[(3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-3,7-dimethyl-1,4-diazepan-2-one (175 mg, 0.38 mmol) in 4 mL of 4N hydrogen chloride in dioxane (4 mL, 4N) was stirred for 2 h and concentrated. The residue was dried under vacuum overnight to yield the title compound as a white solid. MS 358.2 (M+1).

reactant | (3R,7R)-4-[(3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-3,7-dimethyl-1,4-diazepan-2-one | 0.38 mmol, 175 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1[C@@H](C(N[C@@H](CC1)C)=O)C)CC1=C(C=C(C(=C1)F)F)F | C22H30F3N3O4
reactant | hydrogen chloride | 4N, 4 mL | Cl | ClH
solvent | dioxane | 4N, 4 mL | O1CCOCC1 | C4H8O2
product | (3R,7R)-4-[(3R)-3-Amino-4-(2,4,5-trifluorophenyl)butanoyl]-3,7-dimethyl-1,4-diazepan-2-one, hydrochloride | Cl.N[C@@H](CC(=O)N1[C@@H](C(N[C@@H](CC1)C)=O)C)CC1=C(C=C(C(=C1)F)F)F | InChI=1S/C17H22F3N3O2.ClH/c1-9-3-4-23(10(2)17(25)22-9)16(24)7-12(21)5-11-6-14(19)15(20)8-13(11)18;/h6,8-10,12H,3-5,7,21H2,1-2H3,(H,22,25);1H/t9-,10-,12-;/m1./s1
